US09376436B2
To a stirred solution of benzyl N-(2-oxopyrrolidin-3-yl)carbamate (which may be prepared as described in Description 39) (0.5 g, 2.13 mmol) in dry DMF (6 mL) was added in 3 equal portions a 60% dispersion of NaH in oil (90 mg, 2.25 mmol) over 5 minutes under N2. After stirring for 55 minutes, 2-(chloromethoxy)ethyl-trimethyl-silane (0.42 mL, 2.35 mmol) was added dropwise over 12 minutes. The solution was stirred under N2 at ambient temp for 19 hours. The reaction was quenched by addition of saturated aqueous NH4Cl solution (2 mL). The mixture was evaporated and re-evaporated from toluene (3×100 mL). The residue was partitioned between DCM (30 mL) and water (30 mL). The organic phase was dried (MgSO4) and evaporated to an oily solid. The material was purified by silica column chromatography: it was dissolved in toluene (6 mL) and the solution was applied to a 50 g cartridge which was then eluted on a Biotage SP4 system with a gradient of EtOAc/iso-hexane (30-100%). Relevant fractions were pooled and evaporated to give benzyl N-[2-oxo-1-(2-trimethylsilylethoxymethyl)pyrrolidin-3-yl]carbamate (D40) as a colourless oil, dried under vacuum for 2 hours at room temperature to afford 170 mg;

reactant | benzyl N-(2-oxopyrrolidin-3-yl)carbamate | 2.13 mmol, 0.5 g | O=C1NCCC1NC(OCC1=CC=CC=C1)=O | C12H14N2O3
reactant | NaH | [H-].[Na+]
reactant | 2-(chloromethoxy)ethyl-trimethyl-silane | 2.35 mmol, 0.42 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | benzyl N-[2-oxo-1-(2-trimethylsilylethoxymethyl)pyrrolidin-3-yl]carbamate | O=C1N(CCC1NC(OCC1=CC=CC=C1)=O)COCC[Si](C)(C)C | C18H28N2O4Si
